### PR TITLE
[Merged by Bors] - feat(NumberTheory/Height): bound the natural denominator by multiplicative height

### PR DESCRIPTION
**Pull request by yuanyi-350**

### CODE REVIEW

File: Mathlib/NumberTheory/Height/NumberField.lean [hunk 1]
```diff
@@ -319,6 +319,14 @@ lemma exists_nat_le_mulHeight₁ (x : K) :
   gcongr
   exact Finite.le_ciSup_of_le 1 <| by simp
 
+/-- The natural-number denominator of an element of a number field is bounded by its
+multiplicative height. -/
+lemma natDenominator_le_mulHeight₁ (x : K) : Algebra.natDenominator x ≤ mulHeight₁ x := by
+  obtain ⟨n, hn, hn_le, hn_int⟩ := exists_nat_le_mulHeight₁ x
+  have hdvd : Algebra.natDenominator x ∣ n := by
+    simpa [Algebra.natDenominator_dvd_iff, nsmul_eq_mul] using hn_int
+  exact (Nat.cast_le.mpr (Nat.le_of_dvd (by lia) hdvd)).trans hn_le
```
Comment (tb65536) [inline Mathlib/NumberTheory/Height/NumberField.lean]:
```suggestion
  rw [← nsmul_eq_mul, ← Algebra.natDenominator_dvd_iff] at hn_int
  grw [Nat.le_of_dvd hn.pos hn_int, hn_le]
```

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Comment by faenuccio** [comment]
thanks

bors merge
